US04552894
The crude 4-(2-fluoroethoxy)benzaldehyde (35.6 g) was dissolved in 140 ml of ethanol, and 11.0 g of sodium borohydride was carefully added to the solution at 47° to 50° C. After adding sodium borohydride, the reaction was carried out at 50° C. for 2 hours. After the reaction, the reaction mixture was cooled to room temperature and water was added. The mixture was extracted with toluene. The toluene layer was washed with water and dried over anhydrous sodium sulfate. Toluene was evaporated under reduced pressure to give 32.4 g of 4-(2-fluoroethoxy)benzyl alcohol as crystals (m.p. 37.3°-38.0° C.).

reactant | 4-(2-fluoroethoxy)benzaldehyde | 35.6 g | FCCOC1=CC=C(C=O)C=C1 | C9H9FO2
reactant | sodium borohydride | 11.0 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 4-(2-fluoroethoxy)benzyl alcohol | 32.4 g | FCCOC1=CC=C(CO)C=C1 | C9H11FO2
